US07582760B2
3-(2,2-Dimethoxy-ethyl)-benzene-1,2-diamine (1.03 g, 5.26 mmol) was dissolved in dTHF and carbonyldiimidazole (935 mg, 5.77 mmol) added. The mixture was stirred at rt for 18 hours. The solvent was removed and the crude material chromatographed to afford 4-(2,2-dimethoxy-ethyl)-1,3-dihydro-benzoimidazol-2-one as a colorless solid (440 mg, 38%). 1H NMR (CDCl3) δ 3.03 (2H, d, J=5.2 Hz), 3.40 (6H, s), 4.58 (1H, t, J=5.2 Hz), 6.86-6.89 (m, 1H), 6.96-7.02 (m, 2H), 9.29 (br s, 1H), 10.28 (br s, 1H). MS: 221 (M−H)−.

reactant | 3-(2,2-Dimethoxy-ethyl)-benzene-1,2-diamine | 5.26 mmol, 1.03 g | COC(CC1=C(C(=CC=C1)N)N)OC | C10H16N2O2
reactant | carbonyldiimidazole | 5.77 mmol, 935 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | 4-(2,2-dimethoxy-ethyl)-1,3-dihydro-benzoimidazol-2-one | 440 mg, 38% | COC(CC1=CC=CC=2NC(NC21)=O)OC | C11H14N2O3
